US05202225
Sulfuryl chloride (4.5 grams, 0.056 mol) was added dropwise at 10° C. to a mixture comprised of 10 grams (0.056 mol) of 1-phenyl-5-mercaptotetrazole and 100 ml of dichloromethane: The reaction mixture was then stirred for 2 hours at room temperature, after which the low boiling point compounds were removed by distillation under reduced pressure at a temperature of from 30° C. to 40° C. and 1-phenyltetrazol-5-sulfenyl chloride was obtained.

reactant | Sulfuryl chloride | 0.056 mol, 4.5 grams | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 1-phenyl-5-mercaptotetrazole | 0.056 mol, 10 grams | C1(=CC=CC=C1)N1N=NN=C1S | C7H6N4S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-phenyltetrazol-5-sulfenyl chloride | C1(=CC=CC=C1)N1N=NN=C1SCl | C7H5ClN4S
